US07612212B2
4-Bromo-2-chloro-aniline (325 mg, 1.58 mmol) and (S,S)-2-tert-butoxycarbonylamino-3-phenyl-butyric acid (440 mg, 1.58 mmol) in pyridine (5 mL) were cooled to −30° C. Phosporus oxychloride (0.158 mL, 1.7 mmol) was added and stirred at −20° C. for 2 hours. The mixture was poured into ice water and extracted with ethyl acetate (3×). The combined organic extracts were washed with water, brine, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in dichloromethane (5 mL) at 0° C. and trifluoroacetic acid (3 mol) added. Stirring was continued for 2 hours at 0° C. The mixture was evaporated and the residue dissolved in ether. The ether solution was basified with saturated aqueous sodium bicarbonate and extracted with ether. The organic extracts were washed with brine, dried over sodium sulfate and evaporated to give (2S,3S)-2-amino-N-(4-bromo-2-chloro-phenyl)-3-phenyl-butyramide (325 mg, 55%).

reactant | 4-Bromo-2-chloro-aniline | 1.58 mmol, 325 mg | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | (S,S)-2-tert-butoxycarbonylamino-3-phenyl-butyric acid | 1.58 mmol, 440 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](C)C1=CC=CC=C1 | C15H21NO4
reactant | oxychloride | 1.7 mmol, 0.158 mL | O(Cl)Cl | Cl2O
reactant | trifluoroacetic acid | 3 mol | FC(C(=O)O)(F)F | C2HF3O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (2S,3S)-2-amino-N-(4-bromo-2-chloro-phenyl)-3-phenyl-butyramide | 325 mg, 55% | N[C@H](C(=O)NC1=C(C=C(C=C1)Br)Cl)[C@@H](C)C1=CC=CC=C1 | C16H16BrClN2O
